US05583148
In a similar manner a mixture of the 3,4-Bis(Hydroxymethyl)-1-methyl-5-phenyl-2-(4-pyridinyl)pyrrole, as prepared in Example VIII, 2-propylisocyanate and dibutyltin diacetate (2 drops) in anhydrous dichloromethane are stirred at room temperature under an argon atmosphere for 15 hours. The mixture is concentrated in vacuo and the residue is subjected to flash chromatography to give the 3,4-bis(hydroxymethyl)-1-methyl-5-phenyl-2(4-pyridinyl)pyrrole Bis[N-(2-propyl)carbamate]. Reacting the carbamate with iodomethyl propionate in accord with Example III will provide the iodide salt.

reactant | 3,4-Bis(Hydroxymethyl)-1-methyl-5-phenyl-2-(4-pyridinyl)pyrrole | OCC1=C(N(C(=C1CO)C1=CC=CC=C1)C)C1=CC=NC=C1 | C18H18N2O2
reactant | 2-propylisocyanate | CC(C)N=C=O | C4H7NO
catalyst | dibutyltin diacetate | 2 drops | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3,4-bis(hydroxymethyl)-1-methyl-5-phenyl-2(4-pyridinyl)pyrrole Bis[N-(2-propyl)carbamate] | CC(C)NC(O)=O.CC(C)NC(O)=O.OCC1=C(N(C(=C1CO)C1=CC=CC=C1)C)C1=CC=NC=C1 | InChI=1S/C18H18N2O2.2C4H9NO2/c1-20-17(13-5-3-2-4-6-13)15(11-21)16(12-22)18(20)14-7-9-19-10-8-14;2*1-3(2)5-4(6)7/h2-10,21-22H,11-12H2,1H3;2*3,5H,1-2H3,(H,6,7)
